US08530470B2
Diacetoxypalladium (6.79 mg, 0.03 mmol) was added to a stirred mixture of 6-(morpholine-4-carbonyl)-2-morpholino-8-(pyrrolidin-2-yl)-4H-chromen-4-one (250 mg, 0.60 mmol), biphenyl-2-yldicyclohexylphosphine (21 mg, 0.06 mmol), 1-bromo-4-fluorobenzene (0.083 ml, 0.76 mmol) and cesium carbonate (296 mg, 0.91 mmol) dissolved in 1,4-dioxane (5 mL). The resulting suspension was degassed with argon and then stirred at 100° C. for 15 h. The reaction mixture was purified by preparative HPLC. The fractions containing the desired compound were evaporated to dryness to afford 8-(1-(4-fluorophenyl)pyrrolidin-2-yl)-6-(morpholine-4-carbonyl)-2-morpholino-4H-chromen-4-one (140 mg, 46%) as a gum.

reactant | 6-(morpholine-4-carbonyl)-2-morpholino-8-(pyrrolidin-2-yl)-4H-chromen-4-one | 0.60 mmol, 250 mg | N1(CCOCC1)C(=O)C=1C=C2C(C=C(OC2=C(C1)C1NCCC1)N1CCOCC1)=O | C22H27N3O5
reactant | biphenyl-2-yldicyclohexylphosphine | 0.06 mmol, 21 mg | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | 1-bromo-4-fluorobenzene | 0.76 mmol, 0.083 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | cesium carbonate | 0.91 mmol, 296 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Diacetoxypalladium | 0.03 mmol, 6.79 mg | C(C)(=O)O[Pd]OC(C)=O
product | 8-(1-(4-fluorophenyl)pyrrolidin-2-yl)-6-(morpholine-4-carbonyl)-2-morpholino-4H-chromen-4-one | 140 mg, 46% | FC1=CC=C(C=C1)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1CCOCC1 | C28H30FN3O5
